US07842688B2
b) N-[2-(3-Fluoro-2-hydroxyphenyl)ethyl]acetamide
A solution of 1.54 g of (3-fluoro-2-hydroxyphenyl)acetonitrile, 1.87 ml of acetic anhydride and 2.41 g of nickel chloride hexahydrate in 75 ml of methanol is admixed at 0° C. with 2.72 g of sodium borohydride in portions and stirred at room temperature over 22 hours. The reaction mixture is concentrated by evaporation, and the residue is diluted with ethyl acetate and saturated aqueous sodium bicarbonate solution and clarified by filtration. The aqueous phase is extracted with ethyl acetate (3×). The combined organic phases are dried with sodium sulphate and concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.23 (95:5 dichloromethane-methanol); Rt=2.60.

reactant | (3-fluoro-2-hydroxyphenyl)acetonitrile | 1.54 g | FC=1C(=C(C=CC1)CC#N)O | C8H6FNO
reactant | acetic anhydride | 1.87 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium borohydride | 2.72 g | [BH4-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
catalyst | nickel chloride hexahydrate | 2.41 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | N-[2-(3-Fluoro-2-hydroxyphenyl)ethyl]acetamide | FC=1C(=C(C=CC1)CCNC(C)=O)O | C10H12FNO2
